US08183380B2
(R)-Indan-1-yl-(6-nitro-quinolin-2-yl)-amine (1.5 g, 5.0 mmol) were dissolved in ethyl acetate (60 mL). Upon addition of palladium on carbon (10%) the reaction mixture was stirred for 2 h at ambient temperature under an atmosphere of hydrogen. Then the catalyst was filtered off, the filter washed with ethyl acetate and the filtrate evaporated. (R)—N2-Indan-1-yl-quinoline-2,6-diamine was obtained as a yellow foam (1.3 g, 96%); MS: m/e=276.4 (M+H+).

reactant | (R)-Indan-1-yl-(6-nitro-quinolin-2-yl)-amine | 5.0 mmol, 1.5 g | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C18H15N3O2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | (R)—N2-Indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
